US09370515B2
Preparation of trans-4-(3-(thieno[2,3-b]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol
To a solution of 6-chloro-3-(thieno[2,3-b]pyridin-2-yl)imidazo[1,2-b]pyridazine (45 mg, 0.157 mmol, 1.0 equiv) in DMSO (2.0 mL) was added p-toluene sulfonic acid monohydrate (22 mg, 0.157 mmol, 1.0 equiv) and trans-4-aminocyclohexanol (0.784 mmol, 5.0 equiv) and heated to 100° C. for 24 h. The reaction mixture was diluted with water and extracted with ethyl acetate. Purification by column chromatography using 5% methanol in dichloromethane elution gave 40 mg of the yellow solid, 70%.

reactant | 6-chloro-3-(thieno[2,3-b]pyridin-2-yl)imidazo[1,2-b]pyridazine | 0.157 mmol, 45 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C(=NC=CC1)S2 | C13H7ClN4S
reactant | p-toluene sulfonic acid monohydrate | 0.157 mmol, 22 mg, 1.0 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trans-4-aminocyclohexanol | 0.784 mmol, 5.0 equiv | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | trans-4-(3-(thieno[2,3-b]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexanol | 40 mg | S1C(=CC=2C1=NC=CC2)C2=CN=C1N2N=C(C=C1)N[C@@H]1CC[C@H](CC1)O | C19H19N5OS
